US06713474B2
3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentan-1-ol (2.14 g, 0.0055 mol) in 11 dichloromethane was stirred with 12 g active manganese dioxide for 5 hours, filtered and fresh manganese dioxide (8 g) added to the filtrate. After stirring for a further 17 hours, the mixture was filtered and used directly. HPLC/MS showed starting material and 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-cyclopentanone 62.7% tr 4.38 minutes. The dichloromethane solution was stirred with 1.0 g N-methylpiperazine (0.01 mol) and acetic acid (0.6 g, 0.01 mol) for 15 minutes then sodium triacetoxyborohydride (0.89 g, 0.0042 mol) was added. After 2 hours 1.0 g N-methylpiperazine, 0.6 g acetic acid and 0.89 g sodium triacetoxyborohydride was added and the mixture stirred for 17 hours. Further addition of 2.0 g N-methylpiperazine, 1.2 g acetic acid and 1.2 g sodium triacetoxyborohydride and stirring for 3 days gave a mixture which was evaporated under reduced pressure. The residue was treated with water (200 ml) and 6M -hydrochloric acid (50 ml) then washed with ethyl acetate (discarded) and basified with excess aqueous ammonia. The mixture was extracted with ethyl acetate and the extract dried (sodium sulphate) then purified by flash chromatography in 9:1 ethyl acetate: ethanol to remove impurities followed by 8:1:1 ethyl acetate:ethanol:triethylamine to elute the product. Solvent was removed under reduced pressure, the residue dissolved in ethyl acetate and treated with a solution of maleic acid in ethyl acetate giving 7-[3-(4-methylpiperazino) cyclopentyl]-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine tri-maleate (444395) as a 1.4 solvate with ethyl acetate after drying at 80° C. under reduced pressure (0.95 g, 0.001 mol) m.pt. 168-170° C. (decomposes).

reactant | 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentan-1-ol | 0.0055 mol, 2.14 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CC(CC2)O | C23H22N4O2
reactant | N-methylpiperazine | 0.01 mol, 1.0 g | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 0.0042 mol, 0.89 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-methylpiperazine | 1.0 g | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 0.89 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-methylpiperazine | 2.0 g | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 1.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.2 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 0.6 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 0.01 mol, 0.6 g | C(C)(=O)O | C2H4O2
catalyst | manganese dioxide | 12 g | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-[3-(4-methylpiperazino) cyclopentyl]-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine tri-maleate | C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.CN1CCN(CC1)C1CC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | InChI=1S/C28H32N6O.3C4H4O4/c1-32-13-15-33(16-14-32)21-9-10-22(17-21)34-18-25(26-27(29)30-19-31-28(26)34)20-7-11-24(12-8-20)35-23-5-3-2-4-6-23;3*5-3(6)1-2-4(7)8/h2-8,11-12,18-19,21-22H,9-10,13-17H2,1H3,(H2,29,30,31);3*1-2H,(H,5,6)(H,7,8)/b;3*2-1-
